US06048894
(1) Preparation of tert-butyl 3-(ethoxycarbonyl)-4-[N-[(1RS,2RS)-2-(hydroxymethyl)-1-methyl-3-{5-(phenylcarbamoyl)-2-furyl}propyl]-N-(2-naphthylmethyl)carbamoyl]-4-(methoxymethyloxy)-3-butenoate
400 mg of tert-butyl 3-(ethoxycarbonyl)-4-[N-[(1RS,2RS)-2-(tert-butyldimethylsilyloxymethyl)-1-methyl-3-{5-(phenylcarbamoyl)-2-furyl}propyl]-N-(2-naphthylmethyl)carbamoyl]-4-methoxymethyloxy-3-butenoate prepared by the same reaction as in Example 1(2) by using N-(2-naphthylmethyl)-[(1RS,2RS)-2-(tert-butyldimethylsilyloxymethyl)-1-methyl-3-{5-(phenylcarbamoyl)-2-furyl}propyl]amine prepared in Reference Example 4 was dissolved in 4 ml of tetrahydrofuran and stirred together with 0.95 ml of 1.0M tetrabutylammonium fluoride in tetrahydrofuran solution at room temperature for 2 hours. The reaction solution was poured into water and extracted with ethyl acetate, and the organic layer was washed with saturated aqueous ammonium chloride and saturated aqueous sodium chloride and dried over anhydrous magnesium sulfate. The desiccant was filtered off, and the solvent was distilled off under reduced pressure. The residue was purified by column chromatography [hexane/ethyl acetate=1/1] to give 147 mg (yield: 43%) of the title compound as a colorless oily substance.

reactant | tert-butyl 3-(ethoxycarbonyl)-4-[N-[(1RS,2RS)-2-(tert-butyldimethylsilyloxymethyl)-1-methyl-3-{5-(phenylcarbamoyl)-2-furyl}propyl]-N-(2-naphthylmethyl)carbamoyl]-4-methoxymethyloxy-3-butenoate | 400 mg | C(C)OC(=O)C(CC(=O)OC(C)(C)C)=C(OCOC)C(N(CC1=CC2=CC=CC=C2C=C1)C(C(CC=1OC(=CC1)C(NC1=CC=CC=C1)=O)CO[Si](C)(C)C(C)(C)C)C)=O | C47H62N2O10Si
reactant | N-(2-naphthylmethyl)-[(1RS,2RS)-2-(tert-butyldimethylsilyloxymethyl)-1-methyl-3-{5-(phenylcarbamoyl)-2-furyl}propyl]amine | C1=C(C=CC2=CC=CC=C12)CNC(C(CC=1OC(=CC1)C(NC1=CC=CC=C1)=O)CO[Si](C)(C)C(C)(C)C)C | C33H42N2O3Si
reactant | tetrabutylammonium fluoride | 1.0M, 0.95 ml | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | water | O | H2O
solvent | tetrahydrofuran | 4 ml | O1CCCC1 | C4H8O
product | tert-butyl 3-(ethoxycarbonyl)-4-[N-[(1RS,2RS)-2-(hydroxymethyl)-1-methyl-3-{5-(phenylcarbamoyl)-2-furyl}propyl]-N-(2-naphthylmethyl)carbamoyl]-4-(methoxymethyloxy)-3-butenoate | 147 mg, yield: 43% | C(C)OC(=O)C(CC(=O)OC(C)(C)C)=C(OCOC)C(N(CC1=CC2=CC=CC=C2C=C1)C(C(CC=1OC(=CC1)C(NC1=CC=CC=C1)=O)CO)C)=O | C41H48N2O10
